US06376507B1
2,4-dimethylthiazole-5-sulfonic acid [4-isopropoxy-3-((2S, 3S)-2-phenylpiperidin-3-ylaminomethyl)phenyl]-methylamide;
2,4-dimethylthiazole-5-sulfonic acid [4-isopropoxy-3-((2S, 3S)-2-phenylpiperidin-3-ylaminomethyl)phenyl-isopropylamide;

reactant | 2,4-dimethylthiazole-5-sulfonic acid | CC=1SC(=C(N1)C)S(=O)(=O)O | C5H7NO3S2
reactant | 4-isopropoxy-3-((2S, 3S)-2-phenylpiperidin-3-ylaminomethyl)phenyl-isopropylamide | C(C)(C)OC1=C(C=C(C=C1)[N-]C(C)C)CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1
product | 2,4-dimethylthiazole-5-sulfonic acid [4-isopropoxy-3-((2S, 3S)-2-phenylpiperidin-3-ylaminomethyl)phenyl]-methylamide | C(C)(C)OC1=C(C=C(C=C1)N(S(=O)(=O)C1=C(N=C(S1)C)C)C)CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C27H36N4O3S2
